US07893085B2
3-(4-Bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide
A mixture of ethyl 3-(4-bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine-2-carboxylate (63 mg, 0.16 mmol), 1N aqueous NaOH solution (0.17 ml, 0.17 mmol) and ethanol (2 ml) was heated at 65° C. for 45 minutes. The resultant reaction mixture was concentrated in vacuo then the residue was azeotroped with toluene (2×2 ml) to give a solid residue. The resultant solid residue was suspended in anhydrous THF (2 ml) before O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)hydroxylamine (38 mg, 0.32 mmol), EDCI (38 mg, 0.20 mmol), HOBt (30 mg, 0.22 mmol) and DIPEA (83 μl. 0.48 mmol) were added. After stirring for 66 hours at ambient temperature, the reaction mixture was concentrated in vacuo to afford a yellow residue. The resultant residue was dissolved in ethyl acetate (50 ml) and washed with water (20 ml), before the organic layer was isolated, dried over sodium sulfate, then concentrated in vacuo to afford a yellow oil. The oil was purified by flash chromatography (Si-SPE, pentane:ethyl acetate, gradient 60:40 to 0:100) to afford the title compound as a yellow foam (61 mg, 77%). LCMS (method B): RT=3.02 min, M+H+=496/498.

reactant | ethyl 3-(4-bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine-2-carboxylate | 0.16 mmol, 63 mg | BrC1=CC(=C(C=C1)NC1=C(SC2=CN=CC=C21)C(=O)OCC)F | C16H12BrFN2O2S
reactant | NaOH | 0.17 mmol, 1N, 0.17 ml | [OH-].[Na+]
reactant | O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)hydroxylamine | 0.32 mmol, 38 mg | CC1(OC[C@@H](O1)CON)C | C6H13NO3
reactant | EDCI | 0.20 mmol, 38 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.22 mmol, 30 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.48 mmol, 83 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-(4-Bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 61 mg, 77% | CC1(OC[C@@H](O1)CONC(=O)C1=C(C=2C(=CN=CC2)S1)NC1=C(C=C(C=C1)Br)F)C | C20H19BrFN3O4S
